US06500863B1
4chloro-2-hydroxy-3-(4-thiomorpholinylsufonyl)aniline
Following the general hydrogenation procedure outlined in example 15, 6-chloro-2-hydroxy-3-nitro-1-(4-thiomorpholinylsufonyl)benzene (330 mg, 0.97 mmol) was reduced with hydrogen and 10% Pd/C (150 mg) to form the desired product (240 mg, 80%). 1H NMR (MeOD-d4): δ 7.08 (d, 1H), 6.98(d, 1H), 3.59 (t, 4H), 2.68 (t, 4H).

reactant | 6-chloro-2-hydroxy-3-nitro-1-(4-thiomorpholinylsufonyl)benzene | 0.97 mmol, 330 mg | ClC1=CC=C(C(=C1S(=O)(=O)N1CCSCC1)O)[N+](=O)[O-] | C10H11ClN2O5S2
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | 4chloro-2-hydroxy-3-(4-thiomorpholinylsufonyl)aniline | 240 mg, 80% | ClC1=C(C(=C(N)C=C1)O)S(=O)(=O)N1CCSCC1 | C10H13ClN2O3S2
